### PR TITLE
working on completeness rules for subtyping

### PR DESCRIPTION
**Pull request by HuStmpHrrr**
c.f. #121

### CODE REVIEW

**Comment by HuStmpHrrr** [comment]
@Ailrun could you please take a look at the function case and see if it can use some lemmas you have proved for the function cases for the completeness proof, after the popl deadline?

File: theories/Core/Completeness/SubtypingCases.v [hunk 1]
```diff
@@ -0,0 +1,179 @@
...
+  intros.
+  do 2 eexists; repeat split;
+  econstructor; mauto 2.
+  - apply per_univ_elem_core_univ'; [lia | reflexivity].
+  - apply per_univ_elem_core_univ'; [lia | reflexivity].
+  - econstructor; lia.
+Qed.
+
+
+Lemma wf_subtyp_pi' : forall Γ A A' B B' i,
```
Comment (HuStmpHrrr) [inline theories/Core/Completeness/SubtypingCases.v:87]: @Ailrun Idk if you have better idea in cleaning this proof up. maybe you could give a shot after merging this PR.

**Comment by HuStmpHrrr** [comment]
Let's merge this PR first, and then we have another PR just to fix up the completeness proof.

File: theories/Core/Completeness/SubtypingCases.v (hunk 1 above)
Comment (Ailrun) [reply theories/Core/Completeness/SubtypingCases.v:87]: Sure

File: theories/Core/Completeness/ContextCases.v [hunk 2]
```diff
@@ -41,5 +41,41 @@ Proof with intuition.
...
+  on_all_hyp: fun H => (eapply rel_ctx_extend' in H; destruct H).
+  econstructor; mauto; intros.
+  deepexec H3 ltac:(fun H => destruct H as [? [? [? [? []]]]]).
+  simplify_evals. eassumption.
+Qed.
+
+
 #[export]
-Hint Resolve rel_ctx_extend : mcltt.
+Hint Resolve wf_ctx_sub_empty' wf_ctx_sub_extend' : mcltt.
```
Comment (Ailrun) [inline theories/Core/Completeness/ContextCases.v:81]: In my opinion, these names are better suited for other things, such as alternative constructo s (or helper lemmas) for the corresponding constructors. That's why I used different names for other completeness cases. Are there other names for these?

Comment (HuStmpHrrr) [reply theories/Core/Completeness/ContextCases.v:81]: do you have a naming pattern?

Comment (Ailrun) [reply theories/Core/Completeness/ContextCases.v:81]: I used `<relation type>_<constructor suffix>`, like when the type is `rel_ctx` and the constructor was `wf_ctx_extend`, I combined `rel_ctx` and `extend` to get `rel_ctx_extend`. Does this work for these cases as well?

Comment (HuStmpHrrr) [reply theories/Core/Completeness/ContextCases.v:81]: I will see

Comment (HuStmpHrrr) [reply theories/Core/Completeness/ContextCases.v]: ok I think it's good.

**Review by Ailrun — APPROVED** [review]
